US05275756
Synthesis of (R)-5-Octyloxy-2-[4-(3-fluoroundecyloxy)phenyl]pyrimidine (Example 9)
The titled compound was synthesized from 5-octyloxy-2-(4-hydroxyphenyl)pyrimidine and 3-fluoroundecyloxy methanesulfonate.

reactant | 5-octyloxy-2-(4-hydroxyphenyl)pyrimidine | C(CCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O2
reactant | 3-fluoroundecyloxy methanesulfonate | CS(=O)(=O)OOCCC(CCCCCCCC)F | C12H25FO4S
product | (R)-5-Octyloxy-2-[4-(3-fluoroundecyloxy)phenyl]pyrimidine | Yield: 19.5% | C(CCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCC[C@@H](CCCCCCCC)F | C29H45FN2O2
